US04933355
Ethyl 2-(3-o-chlorophenylureido)thiazol-4-ylglyoxylate
Following a procedure similar to that described in Preparation 1, the desired compound was prepared from 26.7 g of ethyl 2-aminothiazol-4-ylglyoxylate, 23 g of o-chlorophenyl isocyanate and 300 ml of dimethylformamide. The resulting product was a white powder having the following physical properties.

reactant | ethyl 2-aminothiazol-4-ylglyoxylate | 26.7 g | NC=1SC=C(N1)C(C(=O)OCC)=O | C7H8N2O3S
reactant | o-chlorophenyl isocyanate | 23 g | ClC1=C(C=CC=C1)N=C=O | C7H4ClNO
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | Ethyl 2-(3-o-chlorophenylureido)thiazol-4-ylglyoxylate | ClC1=C(C=CC=C1)NC(NC=1SC=C(N1)C(C(=O)OCC)=O)=O | C14H12ClN3O4S
